US08017612B2
6-amino-2-trifluoromethyl-pyrimidin-4-ol
Under stirring at room temperature, malonamidine hydrochloride (406 g) and 1,8-diazabicyclo[5.4.0]undec-7-ene (870 ml) were added to tetrahydrofuran (2 L), and ethyl trifluoroacetate (1040 ml) was added dropwise. After stirring under heating at a bath temperature of 65° C. for 17.5 hr, water (200 ml) was added, and the reaction mixture was concentrated. Water (1 L) was added to the concentrated residue, concentrated hydrochloric acid (485 ml) was added dropwise with stirring at room temperature and the mixture was stirred for 1 hr. After cooling the inside temperature to 0° C. or below, the precipitated crystals were collected by filtration, washed twice with water (600 ml), and dried to give the title compound (251 g).

reactant | malonamidine hydrochloride | 406 g | Cl.C(CC(=N)N)(=N)N
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 870 ml | N12CCCCCC2=NCCC1 | C9H16N2
reactant | tetrahydrofuran | 2 L | O1CCCC1 | C4H8O
reactant | ethyl trifluoroacetate | 1040 ml | FC(C(=O)OCC)(F)F | C4H5F3O2
solvent | water | 200 ml | O | H2O
product | 6-amino-2-trifluoromethyl-pyrimidin-4-ol | 251 g | NC1=CC(=NC(=N1)C(F)(F)F)O | C5H4F3N3O
